US07427635B2
To a solution of tert-butoxycarbonylamino-(4-trifluoromethane-sulfonyloxy-phenyl)-acetic acid benzyl ester (2.2 g, 4.50 mmol) in acetonitrile (10 mL) was added diethylphosphite (643 μL, 5.00 mmol) followed by N-methylmorpholine (691 μL, 6.30 mmol). The mixture was purged with nitrogen and tetrakis-triphenylphosphine palladium (260 mg, 0.23 mmol, 15 mol %) was added. The reaction mixture was heated to 75° C. overnight then cooled to room temperature and diluted with ethyl acetate (50 mL). The mixture was poured into a separatory funnel containing ethyl acetate (100 mL) and washed with 0.2M aqueous hydrochloric acid (2×), water (2×), brine and dried over sodium sulfate. The solvent was removed in vacuo, and the product was chromatographed over silica gel gradient eluted between 10 to 75% ethyl acetate in hexanes to afforded tert-butoxycarbonylamino-[4-(diethoxy-phosphoryl)-phenyl]-acetic acid benzyl ester (2.0 g, 93%).

reactant | tert-butoxycarbonylamino-(4-trifluoromethane-sulfonyloxy-phenyl)-acetic acid benzyl ester | 4.50 mmol, 2.2 g | C(C1=CC=CC=C1)OC(C(C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)NC(=O)OC(C)(C)C)=O | C21H22F3NO7S
reactant | diethylphosphite | 5.00 mmol, 643 μL | C(C)OP(OCC)[O-]
reactant | N-methylmorpholine | 6.30 mmol, 691 μL | CN1CCOCC1 | C5H11NO
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | tert-butoxycarbonylamino-[4-(diethoxy-phosphoryl)-phenyl]-acetic acid benzyl ester | 2.0 g, 93% | C(C1=CC=CC=C1)OC(C(C1=CC=C(C=C1)P(=O)(OCC)OCC)NC(=O)OC(C)(C)C)=O | C24H32NO7P
